US05716984
(1RS, 2SR, 3SR)-3-[2-[(E)-2-Carboxyethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid
To a solution of methyl (1RS, 2SR, 3SR)-3-[2-[(E)-2-carbomethoxyethen-1-yl]-4- methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (80 mg, 0.15 mmol) in dioxane (2 ml) was added 1N NaOH (0.5 ml, 0.5 mmol). The resulting mixture was heated to reflux for 3 h, then cooled and concentrated under reduced pressure. The residue was partitioned between dilute aqueous HCl and ethyl acetate. The ethyl acetate extract was washed with water and dried (MgSO4 anhydrous). The solvent was removed in vacuo and the title compound was obtained as a white solid (73 mg, 96%).

reactant | 3-[2-[(E)-2-carbomethoxyethen-1-yl]-4- methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.15 mmol, 80 mg | C(=O)(OC)/C=C/C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-]
reactant | NaOH | 0.5 mmol, 1N, 0.5 ml | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 3-[2-[(E)-2-Carboxyethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | C(=O)(O)/C=C/C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C30H28O8
